US08232326B2
Synthesis of 2-hydroxy-5-methyl-3-(5-(trifluoromethyl)-2H-benzo[d][1,2,3]triazol-2-yl)benzyl methacrylate
In a 100 ml round bottom 3-neck flask equipped with a magnetic stirrer and nitrogen inlet was dissolved 3.58 g (11.1 mmol) 2-(hydroxymethyl)-4-methyl-6-(5-(trifluoromethyl)-2H-benzo[d][1,2,3]triazol-2-yl)phenol in 60 ml anhydrous THF. Triethylamine (5.6 ml, 40 mmol) was added and the mixture was cooled to −10° C. Methacryloyl chloride (1.373 g, 13.1 mmol) was added dropwise and the mixture was stirred for 1 hour at −10° C. followed by 20 hours at ambient temperature. The solid was filtered off and rinsed with diethyl ether and the resultant filtrate was poured into 100 ml diethyl ether and washed with 0.5 N HCl and water. The organic layer was dried with magnesium sulfate, filtered, and recrystallized with diethyl ether to give 1.90 g (44%) of a white solid. 1H NMR (CDCl3) delta: 11.17 (s, 1H, Ar—OH), 8.29 (s, 1H, Ar—H benzotriazole 4-position), 8.21 (s, 1H, Ar—H phenol 6-position), 8.06 (d, 1H, Ar—H benzotriazole 6-position), 7.69 (d, 1H, Ar—H benzotriazole 7-position), 7.29 (s, 1H, Ar—H phenol 4-position), 6.20 (s, 1H, C═C—H trans), 5.61 (s, 1H, C═C—H cis), 5.39 (s, 2H, Ar—CH2), 2.42 (s, 3H, Ar—CH3), 2.00 (s, 3H, C═C—CH3).

reactant | 2-(hydroxymethyl)-4-methyl-6-(5-(trifluoromethyl)-2H-benzo[d][1,2,3]triazol-2-yl)phenol | 11.1 mmol, 3.58 g | OCC1=C(C(=CC(=C1)C)N1N=C2C(=N1)C=CC(=C2)C(F)(F)F)O | C15H12F3N3O2
reactant | Triethylamine | 40 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | Methacryloyl chloride | 13.1 mmol, 1.373 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-hydroxy-5-methyl-3-(5-(trifluoromethyl)-2H-benzo[d][1,2,3]triazol-2-yl)benzyl methacrylate | 1.90 g, 44% | C(C(=C)C)(=O)OCC1=C(C(=CC(=C1)C)N1N=C2C(=N1)C=CC(=C2)C(F)(F)F)O | C19H16F3N3O3
